Voltage controlled oscillator

rc1 7 5 1k
rc2 7 6 1k

q5 7 7 5 qmod area = 100p
q6 7 7 6 qmod area = 100p

q3 7 5 2 qmod area = 100p
q4 7 6 1 qmod area = 100p

ib1 2 0 .5ma
ib2 1 0 .5ma
cb1 2 0 1pf
cb2 1 0 1pf

q1 5 1 3 qmod area = 100p
q2 6 2 4 qmod area = 100p

c1 3 4 .1uf 

is1 3 0 dc 2.5ma pulse 2.5ma 0.5ma 0 1us 1us 50ms
is2 4 0 1ma
vcc 7 0 10

.model qmod nbjt level=1
+ x.mesh node=1  loc=0.0
+ x.mesh node=61 loc=3.0
+ region num=1 material=1
+ material num=1 silicon nbgnn=1e17 nbgnp=1e17
+ mobility material=1 concmod=sg fieldmod=sg
+ mobility material=1 elec major
+ mobility material=1 elec minor
+ mobility material=1 hole major
+ mobility material=1 hole minor
+ doping unif n.type conc=1e17 x.l=0.0 x.h=1.0
+ doping unif p.type conc=1e16 x.l=0.0 x.h=1.5
+ doping unif n.type conc=1e15 x.l=0.0 x.h=3.0
+ models bgnw srh conctau auger concmob fieldmob
+ options base.length=1.0 base.depth=1.25

.option acct bypass=1 
.tran 3us 600us 0 3us
.print tran v(4)
.end
